US04171367
2-(1-Phenyl-5-pyrazolyl)-amino-2-imidazoline
Acetyl-2(1-phenyl-5-pyrazolyl)-amino-2-imidazoline (15.1 g.) was treated with HCl in methanol as described in Example II to give 12.5 g. product mp 206°-208° C. The hydrochloride, made with HCl in isopropyl alcohol had a mp of 232°-234° C.

reactant | Acetyl-2(1-phenyl-5-pyrazolyl)-amino-2-imidazoline | 15.1 g | C(C)(=O)C1N=C(N(C1)N)C1=CC=NN1C1=CC=CC=C1 | C14H15N5O
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 2-(1-Phenyl-5-pyrazolyl)-amino-2-imidazoline | C1(=CC=CC=C1)N1N=CC=C1C=1N(CCN1)N | C12H13N5
